US05705499
2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyphenyloxy)methyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 104, the title compound, m.p. 172°-173° C., was prepared from 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and catechol. The yield was 58% of theory.

reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | catechol | C=1(O)C(O)=CC=CC1 | C6H6O2
product | 2-chloro-5,11-dihydro-11-ethyl-8-(2-hydroxyphenyloxy)methyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | yield was 58% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)COC3=C(C=CC=C3)O)=O)C | C21H19ClN4O3
